US08466282B2
N-[(3S,5R)-5-(1-hydroxypropyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
To a solution of tert-butyl (3R,5S)-3-(1-hydroxypropyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (200 mg) in ethanol (1 ml) was added 12M hydrochloric acid (0.30 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethanol, and ethanol was evaporated under reduced pressure. This operation was repeated twice to give the object product (140 mg).

reactant | tert-butyl (3R,5S)-3-(1-hydroxypropyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 200 mg | OC(CC)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C30H48N4O5
reactant | hydrochloric acid | 12M, 0.30 ml | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-[(3S,5R)-5-(1-hydroxypropyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | 140 mg | Cl.Cl.OC(CC)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)CC(C)C | InChI=1S/C25H40N4O3.2ClH/c1-5-23(30)19-14-20(16-26-15-19)29(17-18(2)3)25(31)24-27-21-10-6-7-11-22(21)28(24)12-8-9-13-32-4;;/h6-7,10-11,18-20,23,26,30H,5,8-9,12-17H2,1-4H3;2*1H/t19-,20+,23?;;/m1../s1
